US04261997
4,9-Dihydro-4-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carbonitrile
A mixture of 5.3 g of 4,9-dihydro-4-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxamide, 5.2 g of thionyl chloride and 65 ml of dimethylformamide is stirred and heated at 57° C. for 18 hrs, then evaporated at reduced pressure. The residue is stirred with 600 ml of water and the resulting solid 4,9-dihydro-4-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carbonitrile is collected by filtration, washed with water and dried; mp 307°-310° C., after crystallization from dimethylformamide/ethanol.

reactant | 4,9-dihydro-4-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxamide | 5.3 g | CN1C=2N(C(C=3C=CC=CC13)=O)N=C(C2)C(=O)N | C12H10N4O2
reactant | thionyl chloride | 5.2 g | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 65 ml | CN(C=O)C | C3H7NO
product | 4,9-Dihydro-4-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carbonitrile | CN1C=2N(C(C=3C=CC=CC13)=O)N=C(C2)C#N | C12H8N4O
